US04025641
12.0 g (0.25 mol) of 50% sodium hydride dispersion in mineral oil are freed from the mineral oil with hexane and covered with a layer of 150 cc of absolute 1,2-dimethoxy ethane. A solution of 35.4 g (0.3 mol) of 2,5-hexandiol in 60 cc of absolute 1,2-dimethoxy ethane is added at 5°-10° over a period of 90 minutes and while stirring to the resulting suspension. After stirring for 2 hours at 50°, the mixture is cooled to 10° and 24.2 g (0.2 mol) of allyl-bromide in 40 cc of dry 1,2-dimethoxy ethane are added dropwise. The mixture is slowly heated to 60° and stirred at this temperature for 16 hours. After this period the reaction mixture is cooled to room temperature. After adding 200 cc amounts of ether and water the mixture is vigorously stirred for 15 minutes and the organic phase is separated off in a separating funnel. The ether extract is washed with saturated salt solution, dried over sodium sulphate and evaporated. The residue is purified by chromatography on silica gel with hexane/ethyl acetate (2:1), whereby, according to gas-chromatography, pure 5-allyloxy-2-hexanol is obtained as a colourless oil.

reactant | sodium hydride | 0.25 mol, 12.0 g | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 2,5-hexandiol | 0.3 mol, 35.4 g | CC(CCC(C)O)O | C6H14O2
reactant | allyl-bromide | 0.2 mol, 24.2 g | C(C=C)Br | C3H5Br
solvent | 1,2-dimethoxy ethane | 60 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxy ethane | 40 cc | COCCOC | C4H10O2
solvent | 1,2-dimethoxy ethane | 150 cc | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5-allyloxy-2-hexanol | C(C=C)OC(CCC(C)O)C | C9H18O2
